US05424479
The process according to claim 1, wherein 3-hydroxy-4-methylbenzoic acid in the form of a mixture with 3-methoxy-4-methylbenzoic acid is reacted to give methyl 3-methoxy-4-methylbenzoate.

reactant | 3-hydroxy-4-methylbenzoic acid | OC=1C=C(C(=O)O)C=CC1C | C8H8O3
reactant | 3-methoxy-4-methylbenzoic acid | COC=1C=C(C(=O)O)C=CC1C | C9H10O3
product | methyl 3-methoxy-4-methylbenzoate | COC=1C=C(C(=O)OC)C=CC1C | C10H12O3
